US07799810B2
Step 3: 1-[4-(2-Amino-4-methyl-thiazol-5-yl)-2-fluoro-phenyl]-ethanone
N-[5-(4-Acetyl-3-fluoro-phenyl)-4-methyl-thiazol-2-yl]-acetamide (0.46 g, 0.171 mmol) in EtOH (15 ml) is treated with 6M HCl (3.14 ml) and heated using microwave radiation at 100° C. After 90 minutes, the solvent is removed in vacuo and the resulting solid is dissolved in water (25 ml). The pH is adjusted to pH 7 by addition of 2M NaOH. The yellow solid which precipitates is filtered and dried under vacuum to afford the title compound. (MH+ 251.22).

reactant | N-[5-(4-Acetyl-3-fluoro-phenyl)-4-methyl-thiazol-2-yl]-acetamide | 0.171 mmol, 0.46 g | C(C)(=O)C1=C(C=C(C=C1)C1=C(N=C(S1)NC(C)=O)C)F | C14H13FN2O2S
reactant | HCl | 6M, 3.14 ml | Cl | ClH
solvent | EtOH | 15 ml | CCO | C2H6O
product | 1-[4-(2-Amino-4-methyl-thiazol-5-yl)-2-fluoro-phenyl]-ethanone | NC=1SC(=C(N1)C)C1=CC(=C(C=C1)C(C)=O)F | C12H11FN2OS
